US07589095B2
Sodium cyanide (65 mg, 1.32 mmol) was added at room temperature to 4-(3-isopropyl-phenyl)-2-methanesulfonyl-6-propyl-pyrimidine (211 mg) in DMSO (2 mL). The mixture was stirred at room temperature for 2 hours, then partitioned between ethyl acetate and water. The aqueous layer was extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulphate, filtered and concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent: Cyclohexane/Ethyl acetate 7/3) to afford a pink oil which crystallised in pentane. After filtration, 4-(3-isopropyl-phenyl)-2-cyano-6-propyl-pyrimidine (164 mg) was obtained as an off white solid (mp=64° C.).

reactant | Sodium cyanide | 1.32 mmol, 65 mg | [C-]#N.[Na+]
reactant | 4-(3-isopropyl-phenyl)-2-methanesulfonyl-6-propyl-pyrimidine | 211 mg | C(C)(C)C=1C=C(C=CC1)C1=NC(=NC(=C1)CCC)S(=O)(=O)C | C17H22N2O2S
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 4-(3-isopropyl-phenyl)-2-cyano-6-propyl-pyrimidine | 164 mg | C(C)(C)C=1C=C(C=CC1)C1=NC(=NC(=C1)CCC)C#N | C17H19N3
